US04032676
N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-arginine
The starting materials were D-glucose and L-(+)-arginine. The reductive amination was carried out using Raney nickel or palladium/activated carbon (10%) as a catalyst in the temperature range from 50° to 70° C. and yielded a colorless, resin-like product.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(+)-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
product | N-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-arginine | OC(CN[C@@H](CCCNC(N)=N)C(=O)O)C(C(C(CO)O)O)O | C12H26N4O7
